US05707997
Preparation of 7-amino-5-n-butyl-6-methylpyrazolo[1,5-a]pyrimidine
A toluene solution (2.5 ml) containing 1.8 g of 3-aminopyrazole and 3 g of 2-methyl-3-oxoheptanenitrile was heated at 115° C. for 3.5 hours. Toluene was distilled off under reduced pressure and the residue was recrystallized from ethyl acetate and washed with diethyl ether to provide 2.4 g of the title object compound as colorless crystals.

reactant | 3-aminopyrazole | 1.8 g | NC1=NNC=C1 | C3H5N3
reactant | 2-methyl-3-oxoheptanenitrile | 3 g | CC(C#N)C(CCCC)=O | C8H13NO
solvent | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
product | 7-amino-5-n-butyl-6-methylpyrazolo[1,5-a]pyrimidine | NC1=C(C(=NC=2N1N=CC2)CCCC)C | C11H16N4
